US09328114B2
9-(3-(isopropylamino)propyl)-8-(6-(4-methoxyphenyl)benzo[d][1,3]dioxol-5-ylthio)-9H-purin-6-amine [DZ3-3].
8-(6-(4-bromophenyl)benzo[d][1,3]dioxol-5-ylthio)-9-(3-(isopropylamino)propyl)-9H-purin-6-amine [DZ3-6]. 4-Bromophenylboronic acid (17.6 mg, 0.0877 mmol) was added to PU-H71 (30 mg, 0.0585 mmol) and NaHCO3 (14.7 mg, 0.1755 mmol). DMF (1 mL) was added and the reaction mixture was evacuated and back filled with nitrogen. This was repeated four times then nitrogen was bubbled through the reaction mixture for 10 minutes. Then H2O (0.1 mL) and Pd(PPh3)2Cl2 (4 mg, 0.00584 mmol) were added and the reaction mixture was heated under nitrogen at 90° C. for 4 h. Solvent was removed under reduced pressure and the resulting residue was purified by preparatory TLC (hexane:CH2Cl2:EtOAc:MeOH—NH3 (7N), 4:5:2:1) to give 13.9 mg (44%) of DZ3-6. 1H NMR (500 MHz, CDCl3) δ 8.23 (s, 1H), 7.44 (d, J=8.2 Hz, 2H), 7.13 (d, J=8.2 Hz, 2H), 7.01 (s, 1H), 6.81 (s, 1H), 6.05 (s, 2H), 5.69 (br s, 2H), 4.08 (t, J=6.0 Hz, 2H), 2.91 (m, 1H), 2.50 (t, J=5.9 Hz, 2H), 1.98 (m, 2H), 1.20 (d, J=6.4 Hz, 6H); 13C NMR (125 MHz, CDCl3/MeOH-d4) δ 154.2, 152.0, 151.2, 149.8, 149.1, 148.2, 139.8, 139.1, 131.2, 131.0, 122.0, 119.0, 117.9, 115.0, 111.1, 102.4, 50.1, 42.1, 40.2, 27.3, 20.2; HRMS (ESI) m/z [M+H]+ calcd. for C24H26BrN6O2S, 541.1021/543.1001; found. 541.1016/543.1004; HPLC: method A Rt=6.93, method B Rt=8.30.

reactant | 8-(6-(4-bromophenyl)benzo[d][1,3]dioxol-5-ylthio)-9-(3-(isopropylamino)propyl)-9H-purin-6-amine | BrC1=CC=C(C=C1)C=1C(=CC2=C(OCO2)C1)SC=1N(C2=NC=NC(=C2N1)N)CCCNC(C)C | C24H25BrN6O2S
reactant | 4-Bromophenylboronic acid | 0.0877 mmol, 17.6 mg | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | PU-H71 | 0.0585 mmol, 30 mg | CC(C)NCCCN1C2=C(C(=NC=N2)N)N=C1SC3=C(C=C4C(=C3)OCO4)I | C18H21IN6O2S
reactant | NaHCO3 | 0.1755 mmol, 14.7 mg | C(=O)(O)[O-].[Na+]
catalyst | Pd(PPh3)2Cl2 | 0.00584 mmol, 4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | 0.1 mL | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 9-(3-(isopropylamino)propyl)-8-(6-(4-methoxyphenyl)benzo[d][1,3]dioxol-5-ylthio)-9H-purin-6-amine | C(C)(C)NCCCN1C2=NC=NC(=C2N=C1SC1=CC2=C(OCO2)C=C1C1=CC=C(C=C1)OC)N | C25H28N6O3S
